US06479487B1
1-(2-Benzimidazolyl)methyl-4-piperidone is prepared from 4-piperidone and 2-(chloromethyl)benzimidazole essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 2-(chloromethyl)benzimidazole | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
product | 1-(2-Benzimidazolyl)methyl-4-piperidone | N1=C(NC2=C1C=CC=C2)CN2CCC(CC2)=O | C13H15N3O
